US07629476B2
2-Chloromethyl-5,5-dimethyl-2-(2,5-dimethylphenyl)-[1,3]dioxane
0.5 mol of 2-chloro-1-(2,5-dimethylphenyl)ethanone, 104 g [1 mol] of 2,2-dimethyl-1,3-propanediol (neopentyl glycol) and 9.5 g [0.05 mol] of p-TsOH hydrate are boiled in 500 ml of xylene with a water trap until the formation of water ceases (about 4 hours). 200 ml of water and 30 ml of xylene are added to the reaction mixture at room temperature. A better phase separation is achieved by adding 50 ml of saturated aqueous NaCl solution. The organic phase is then extracted again with 100 ml of water and 100 ml of saturated aqueous NaCl solution, dried and concentrated.

reactant | 2-chloro-1-(2,5-dimethylphenyl)ethanone | 0.5 mol | ClCC(=O)C1=C(C=CC(=C1)C)C | C10H11ClO
reactant | 2,2-dimethyl-1,3-propanediol | 1 mol, 104 g | CC(CO)(CO)C | C5H12O2
reactant | water | O | H2O
reactant | water | 200 ml | O | H2O
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Chloromethyl-5,5-dimethyl-2-(2,5-dimethylphenyl)-[1,3]dioxane | ClCC1(OCC(CO1)(C)C)C1=C(C=CC(=C1)C)C | C15H21ClO2
